US07109209B2
In a similar manner as described in Example 34 from 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (0.50 g, 1.7 mmol), N-butylguanidine sulfate and sodium ethoxide (0.81 mL, 21 wt % in ethanol, 2.2 mmol) at room temperature was obtained N-butyl-4-[7-chloro-2-(4-fluorophenyl)-pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (0.39 g, 59% o) as a fluffy pale yellow solid. 1H NMR (CDCl3): δ 8.40 (d, 1H), 8.07 (d, 1H), 7.65 (m, 2H), 7.29 (m, 1H), 7.15 (t, 2H), 7.06 (d, 1H), 6.32 (d, 1H), 5.16 (bs, 1H), 3.49 (q, 2H), 1.71–1.41 (m, 4H), 0.99 (t, 3H); 19F NMR (CDCl3) δ−112.77; MS m/z 396 (M+1).

reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 1.7 mmol, 0.50 g | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C2=CC=C(C=C2)F | C16H8ClFN2O
reactant | N-butylguanidine sulfate | S(=O)(=O)(O)O.C(CCC)NC(=N)N
reactant | sodium ethoxide | 2.2 mmol, 0.81 mL | [O-]CC.[Na+]
product | N-butyl-4-[7-chloro-2-(4-fluorophenyl)-pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 0.39 g, 59% | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C21H19ClFN5
